US07414051B2
Preparation of 2-(2-Chloroethoxy)-4-(4-methylpiperazin-1-yl)-6-(naphthalene-1-sulfonylmethyl)phenylamine
A mixture of 1-[3-(2-chloroethoxy)-5-(naphthalene-1-sulfonylmethyl)-4-nitrophenyl]-4-methylpiperazine (0.45 g, 0.85 mmoles) and 10% Pd/C in a 1:1 mixture of THF and methanol was hydrogenated on a Parr hydrogenator at 40 lb/in2 for 20 hours. The reaction mixture was filtered through Celite. The filtrate was diluted with EtOAc, washed with water, dried over Na2SO4, and concentrated under vacuum to afford the title compound as an off white solid (0.4 g, 0.82 mmoles), identified by HNMR and mass spectral analyses.

reactant | 1-[3-(2-chloroethoxy)-5-(naphthalene-1-sulfonylmethyl)-4-nitrophenyl]-4-methylpiperazine | 0.85 mmoles, 0.45 g | ClCCOC=1C=C(C=C(C1[N+](=O)[O-])CS(=O)(=O)C1=CC=CC2=CC=CC=C12)N1CCN(CC1)C | C24H26ClN3O5S
reactant | THF | C1CCOC1 | C4H8O
catalyst | Pd/C | [Pd] | Pd
solvent | methanol | CO | CH4O
product | 2-(2-Chloroethoxy)-4-(4-methylpiperazin-1-yl)-6-(naphthalene-1-sulfonylmethyl)phenylamine | ClCCOC1=C(C(=CC(=C1)N1CCN(CC1)C)CS(=O)(=O)C1=CC=CC2=CC=CC=C12)N | C24H28ClN3O3S
